US08012956B2
To a solution of phenylmethyl 4-hydroxy-2-methylbenzoate (687 mg, 2.82 mmol) in dichloromethane (8 ml) at 0° C., was added chlorosulfonyl isocyanate (1.20 g, 8.50 mmol). The reaction was allowed to warm to 25° C. and stirred for 20 h. The reaction mixture was concentrated then taken into ethyl acetate and washed with water. The organic layer was separated, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (SiO2, hexanes/ethyl acetate) to afford phenylmethyl 4-[(aminocarbonyl)oxy]-2-methylbenzoate (356 mg, 89%). 1H NMR (400 MHz, DMSO): 7.91-7.87 (d, 1H), 7.49-7.29 (m, 5H), 7.11-7.00 (m, 4H), 5.31 (s, 2H), 2.52 (s, 3H). MS (EI) for C16H15NO4: 286 (MH+).

reactant | phenylmethyl 4-hydroxy-2-methylbenzoate | 2.82 mmol, 687 mg | OC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1)C | C15H14O3
reactant | chlorosulfonyl isocyanate | 8.50 mmol, 1.20 g | ClS(=O)(=O)N=C=O | CClNO3S
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | phenylmethyl 4-[(aminocarbonyl)oxy]-2-methylbenzoate | 356 mg, 89% | NC(=O)OC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1)C | C16H15NO4
